* CDL/LVS-oriented netlist
.SUBCKT fdprbq_f_x1 Q CK D RD VDD VSS
XFDPRBQ_F_ck_P0 FDPRBQ_F_ck_b CK VDD VDD pmos w=2u l=100n
XFDPRBQ_F_ck_N0 FDPRBQ_F_ck_b CK VSS VSS nmos w=1u l=100n
XFDPRBQ_F_m_in_P FDPRBQ_F_m_n1 CK D VDD pmos w=2u l=100n
XFDPRBQ_F_m_in_N FDPRBQ_F_m_n1 FDPRBQ_F_ck_b D VSS nmos w=1u l=100n
XFDPRBQ_F_m_i1_P0 FDPRBQ_F_m_n2 FDPRBQ_F_m_n1 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_m_i1_N0 FDPRBQ_F_m_n2 FDPRBQ_F_m_n1 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_m_i2_P0 FDPRBQ_F_m_n1 FDPRBQ_F_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_m_i2_N0 FDPRBQ_F_m_n1 FDPRBQ_F_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_m_fb_P FDPRBQ_F_m_n1 FDPRBQ_F_ck_b FDPRBQ_F_m_n2 VDD pmos w=2u l=100n
XFDPRBQ_F_m_fb_N FDPRBQ_F_m_n1 CK FDPRBQ_F_m_n2 VSS nmos w=1u l=100n
XFDPRBQ_F_m_o_P0 FDPRBQ_F_qm FDPRBQ_F_m_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_m_o_N0 FDPRBQ_F_qm FDPRBQ_F_m_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_s_in_P FDPRBQ_F_s_n1 FDPRBQ_F_ck_b FDPRBQ_F_qm VDD pmos w=2u l=100n
XFDPRBQ_F_s_in_N FDPRBQ_F_s_n1 CK FDPRBQ_F_qm VSS nmos w=1u l=100n
XFDPRBQ_F_s_i1_P0 FDPRBQ_F_s_n2 FDPRBQ_F_s_n1 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_s_i1_N0 FDPRBQ_F_s_n2 FDPRBQ_F_s_n1 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_s_i2_P0 FDPRBQ_F_s_n1 FDPRBQ_F_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_s_i2_N0 FDPRBQ_F_s_n1 FDPRBQ_F_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_s_fb_P FDPRBQ_F_s_n1 CK FDPRBQ_F_s_n2 VDD pmos w=2u l=100n
XFDPRBQ_F_s_fb_N FDPRBQ_F_s_n1 FDPRBQ_F_ck_b FDPRBQ_F_s_n2 VSS nmos w=1u l=100n
XFDPRBQ_F_s_o_P0 Q FDPRBQ_F_s_n2 VDD VDD pmos w=2u l=100n
XFDPRBQ_F_s_o_N0 Q FDPRBQ_F_s_n2 VSS VSS nmos w=1u l=100n
XFDPRBQ_F_rdi_P0 FDPRBQ_F_rd_b RD VDD VDD pmos w=2u l=100n
XFDPRBQ_F_rdi_N0 FDPRBQ_F_rd_b RD VSS VSS nmos w=1u l=100n
XFDPRBQ_F_rcl Q FDPRBQ_F_rd_b VSS VSS nmos w=1u l=100n
.ENDS fdprbq_f_x1
